US07737166B2
7-Fluoro-5-methyl-2-(methylamino)-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-131)
2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile (I-130) (0.20 g, 0.70 mmol) was dissolved in dichloromethane (10 ml), then N,N-diisopropylethylamine (0.15 ml, 0.88 mmol), methylamine (2 M tetrahydrofuran solution, 0.50 ml, 1.00 mmol) were added. After stirring in a sealed tube at an external temperature of about 60° C. for 3 hours, this was diluted with dichloromethane.

reactant | 2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile | 0.70 mmol, 0.20 g | ClC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C15H8ClFN2O
reactant | N,N-diisopropylethylamine | 0.88 mmol, 0.15 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methylamine | 1.00 mmol, 2 M, 0.50 ml | CN | CH5N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 7-Fluoro-5-methyl-2-(methylamino)-6-phenyl-1,3-benzoxazole-4-carbonitrile | FC=1C(=C(C(=C2N=C(OC21)NC)C#N)C)C2=CC=CC=C2 | C16H12FN3O
